US06166033
1.50 g of 2-ethoxycarbonyl-4-(4-fluorophenyl)-5-(2-chloroethyl)thiazole, 1.10 g of 4-(3-fluorobenzylidene)piperidine hydrochloride and 2.50 g of N,N-diisopropylethylamine were stirred in 3 ml of ethanol at 80° C. for 40 hours. The reaction solution was concentrated under reduced pressure, and the residue was treated with ethyl acetate and saturated aqueous sodium bicarbonate to effect separation of layers. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate, and then the drying agent was removed by filtration. The resulting filtrate was concentrated under reduced pressure, and the residue was purified by a flash column chromatography (Wako Gel C200 (manufactured by Wako Pure Chemical Industries), eluant: hexane-ethyl acetate-5.1) and then Chromatolex NH NHDM1020 (manufactured by Fuji Division Chemical), eluant: hexane-ethyl acetate=10.1). This product was treated with 4 N hydrogen chloride/1.4-dioxane solution and then recrystallized from ethanol to obtain 1.14 g of 2-ethoxycarbonyl-4-(4-fluorophenyl)-5-[2-[4-(3-fluorobenzylidene)piperidin-1-yl]ethyl]thiazole hydrochloride

reactant | 2-ethoxycarbonyl-4-(4-fluorophenyl)-5-(2-chloroethyl)thiazole | 1.50 g | C(C)OC(=O)C=1SC(=C(N1)C1=CC=C(C=C1)F)CCCl | C14H13ClFNO2S
reactant | 4-(3-fluorobenzylidene)piperidine hydrochloride | 1.10 g | Cl.FC=1C=C(C=C2CCNCC2)C=CC1
reactant | N,N-diisopropylethylamine | 2.50 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 2-ethoxycarbonyl-4-(4-fluorophenyl)-5-[2-[4-(3-fluorobenzylidene)piperidin-1-yl]ethyl]thiazole hydrochloride | 1.14 g | Cl.C(C)OC(=O)C=1SC(=C(N1)C1=CC=C(C=C1)F)CCN1CCC(CC1)=CC1=CC(=CC=C1)F | InChI=1S/C26H26F2N2O2S.ClH/c1-2-32-26(31)25-29-24(20-6-8-21(27)9-7-20)23(33-25)12-15-30-13-10-18(11-14-30)16-19-4-3-5-22(28)17-19;/h3-9,16-17H,2,10-15H2,1H3;1H
